US07943622B2
Step 2. Synthesis of piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate trihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 4-tert-butyl 1-piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate (101.5 mg, 0.241 mmol) in MeOH (1 mL). After 16 h, the reaction mixture was concentrated under reduced pressure, yielding 103.3 mg (99%) of the desired product. LC-MS: RT=1.26 min, [M+H]+=321.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 4-tert-butyl 1-piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | 0.241 mmol, 101.5 mg | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCNCC1 | C21H32N4O5
solvent | MeOH | 1 mL | CO | CH4O
product | piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate trihydrochloride | 103.3 mg, 99% | Cl.Cl.Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C(=O)OC1CCNCC1 | InChI=1S/C16H24N4O3.3ClH/c21-16(23-14-3-6-17-7-4-14)20-9-8-19-10-13(20)12-22-15-2-1-5-18-11-15;;;/h1-2,5,11,13-14,17,19H,3-4,6-10,12H2;3*1H
